US04822801
To 10.2 g (38.5 mmol) of the 2-(2,3,4,5-tetrafluorobenzoylacetic acid, ethyl ester was added 8.4 g (57.0 mmol) of triethylorthoformate and 9.3 g (91.5 mmol) of acetic anhydride. The mixture was heated to 150° C. for two hours and was then placed under high vacuum at 75°-85° C. for one hour. The residue dissolved, without purification, in 100 ml of isopropyl alcohol and treated with 2.4 ml of cyclopropylamine. The reaction was allowed to stand overnight. It was concentrated and purified by column chromatography (silica gel 70-200, using hexane:chloroform:isopropyl alcohol, 80:15:5). The product off the column was recrystallized from pentane to give 6.16 g of 2-(2,3,4,5-tetrafluoro-benzoyl)-3-cyclopropylaminoacrylic acid, ethyl ester, mp 63°-64° C.

reactant | 2,3,4,5-tetrafluorobenzoylacetic acid, ethyl ester | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1F)F)F | C11H8F4O3
reactant | triethylorthoformate | 57.0 mmol, 8.4 g | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 91.5 mmol, 9.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopropylamine | 2.4 ml | C1(CC1)N | C3H7N
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 2-(2,3,4,5-tetrafluoro-benzoyl)-3-cyclopropylaminoacrylic acid, ethyl ester | 6.16 g | FC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1F)F)F | C15H13F4NO3
